US04518532
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(6-guanidinohexanamido)-2-hydroxyethanamide
A mixture of 446 mg (2.14 mmoles) of 6-guanidinohexanamide hydrochloride, 750 mg (2.57 mmoles) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 283 mg (2.14 mmoles) of glutaric acid and 0.45 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, 5 ml of water was added to the reaction mixture and the resulting mixture was purified in a manner similar to that in Example 1, using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 459 mg (44% yield) of a white powder of N-[4-(3-aminopropyl)aminobutyl]-2-(6-guanidinohexanamido)-2-hydroxyethanamide trihydrochloride.

reactant | 6-guanidinohexanamide hydrochloride | 2.14 mmoles, 446 mg | Cl.N(C(=N)N)CCCCCC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 2.57 mmoles, 750 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 2.14 mmoles, 283 mg | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(6-guanidinohexanamido)-2-hydroxyethanamide trihydrochloride | Cl.Cl.Cl.NCCCNCCCCNC(C(O)NC(CCCCCNC(=N)N)=O)=O
solvent | water | 5 ml | O | H2O
solvent | water | 0.45 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(6-guanidinohexanamido)-2-hydroxyethanamide | 459 mg, 44% yield | NCCCNCCCCNC(C(O)NC(CCCCCNC(=N)N)=O)=O | C16H35N7O3
